US07348449B2
Synthesis of 4-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)benzoic acid
0.46 g (0.95 mmol) of methyl 4-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)benzoate is dissolved in 20 ml of tetrahydrofuran, 2 ml of ethanol and 1 ml of water, and 0.46 g (11 mmol) of lithium hydroxide monohydrate is then added. The reaction medium is refluxed for 15 hours, acidified with 2N hydrochloric acid solution and then extracted with ethyl acetate. The solid obtained is washed with a heptane/ethyl ether mixture (90/10) and then purified by chromatography (eluent: dichloromethane). An off-white powder is obtained (0.2 g; yield=45%).

reactant | methyl 4-(8,8-dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)benzoate | 0.95 mmol, 0.46 g | CC1(CC=C(C=2C=CC(=CC12)[Se]C#CC1=CC=C(C(=O)OC)C=C1)C1=CC=C(C=C1)C)C | C29H26O2Se
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | lithium hydroxide monohydrate | 11 mmol, 0.46 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 4-(8,8-Dimethyl-5-p-tolyl-7,8-dihydro-2-naphthylselanylethynyl)benzoic acid | CC1(CC=C(C=2C=CC(=CC12)[Se]C#CC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)C)C | C28H24O2Se
